US06140351
To 2-methoxycarbonyl-3-chloro-4-methylthiophene (0.25 g, 1.3 mmol) in dry benzene (25 mL) were added N-bromosuccinimide (0.28 g, 1.6 mmol) and benzoyl peroxide (0.03 g, 0.13 mmol). The mixture was refluxed while irradiating with a 250 Watt lamp. After 2 hours the reaction was cooled and concentrated of all volatiles in vacuo. Purification by flash chromatography on silica gel afforded 0.20 g (58% yield) of 2-methoxycarbonyl-3-chloro-4-(bromomethyl)thiophene as a white solid; NMR (CDCl3) 7.6 (s, 1), 4.4 (s, 2), 3.9 (s, 3) ppm.

reactant | 2-methoxycarbonyl-3-chloro-4-methylthiophene | 1.3 mmol, 0.25 g | COC(=O)C=1SC=C(C1Cl)C | C7H7ClO2S
reactant | N-bromosuccinimide | 1.6 mmol, 0.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.13 mmol, 0.03 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | 2-methoxycarbonyl-3-chloro-4-(bromomethyl)thiophene | 0.20 g, 58% yield | COC(=O)C=1SC=C(C1Cl)CBr | C7H6BrClO2S
